US05001125
A mixture of 3.6 parts of 3-chloro-6-(1-piperazinyl)pyridazine monohydrochloride, 5.3 parts of sodium carbonate and 90 parts of N,N-dimethylacetamide was stirred for a while at 60° C. Then there were added 3 parts of (3-bromopropyl)benzene and the whole was stirred overnight at 60° C. The reaction mixture was poured into water. The product was filtered off and converted into the hydrochloride salt in 2-propanol. The salt was filtered off and dried, yielding 3.2 parts (60%) of 3-chloro-6-[4-(3-phenylpropyl)-1-piperazinyl]pyridazine monohydrochloride; mp. 207.3° C. (compound 226) In a similar manner there were also prepared:

reactant | 3-chloro-6-(1-piperazinyl)pyridazine monohydrochloride | Cl.ClC=1N=NC(=CC1)N1CCNCC1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
reactant | (3-bromopropyl)benzene | BrCCCC1=CC=CC=C1 | C9H11Br
solvent | water | O | H2O
product | 3-chloro-6-[4-(3-phenylpropyl)-1-piperazinyl]pyridazine monohydrochloride | 60% | Cl.ClC=1N=NC(=CC1)N1CCN(CC1)CCCC1=CC=CC=C1 | InChI=1S/C17H21ClN4.ClH/c18-16-8-9-17(20-19-16)22-13-11-21(12-14-22)10-4-7-15-5-2-1-3-6-15;/h1-3,5-6,8-9H,4,7,10-14H2;1H
